US07259175B2
3-(2-Methyl-4-{2-[5-methyl-2-(4-pyridin-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid methyl ester
3-[2-Methyl-4-(2-{5-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazol-4-yl}-ethoxy)-phenyl]-propionic acid methyl ester (167 mg; 0.328 mmol) is dissolved in anhydrous toluene (1 mL), degassed, and filled with nitrogen three times. [1,1′-Bis-(diphenylphosphino)ferrocene]dichloropalladium(II) (15 mg, 0.02 mmol), 2-bromopyridine (67 ul, 0.7 mmol), and sodium carbonate (150 uL, 10 M aqueous, 1.5 mmol) are added, and the degassing procedure is repeated. The reaction is heated to 100° C. and monitored by HPLC. Upon complete consumption of starting material, the reaction is allowed to cool to room temperature and diluted with ethyl acetate. Celite is added and the mixture is filtered and rinsed with more ethyl acetate and water. The solution is further diluted with water and the two phases are separated. The organic layer is washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated.

reactant | 3-[2-Methyl-4-(2-{5-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazol-4-yl}-ethoxy)-phenyl]-propionic acid methyl ester | 0.328 mmol, 167 mg | COC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C29H36BNO6
reactant | 2-bromopyridine | 0.7 mmol, 67 ul | BrC1=NC=CC=C1 | C5H4BrN
reactant | sodium carbonate | 1.5 mmol, 10 M, 150 uL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | [1,1′-Bis-(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.02 mmol, 15 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(2-Methyl-4-{2-[5-methyl-2-(4-pyridin-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=NC=CC=C1)C)=O | C28H28N2O4
